US04225722
[9-(acetyloxy)-1-oxo-1H-naphtho[2,1-b]pyran-2-yl]-2-propenoic acid
A mixture of 9-hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde acetate (10.0 g, 0.0354 m) and malonic acid (4.0 g, 0.0354 m) in pyridine (100 ml) is refluxed for 45 minutes. Additional malonic acid (1.0 g, 0.00885 m, 0.25 eq.) is added and the reaction refluxed for 30 minutes. The solvent is removed under reduced pressure to give a sludge from which product crystallizes on the addition of acetone. After filtering the product, recrystallization from DMF gives cocoa crystals (2.75 g, 24%), m.p. dec>290° C.

reactant | 9-hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde acetate | 10.0 g | C(C)(=O)O.OC1=CC=C2C=CC=3OC=C(C(C3C2=C1)=O)C=O
reactant | malonic acid | 4.0 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | malonic acid | 1.0 g, 0.25 eq. | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | [9-(acetyloxy)-1-oxo-1H-naphtho[2,1-b]pyran-2-yl]-2-propenoic acid | 2.75 g, 24% | C(C)(=O)OC1=CC=C2C=CC=3OC=C(C(C3C2=C1)=O)C(C(=O)O)=C | C18H12O6
